US08802664B2
To a solution of (benzofuran-2-yl)(benzothiazol-2-yl)methanone (1.4 g) and 4-amino-1-methylpiperidine (0.57 g) in tetrahydrofurane (8 mL) is added dropwise titanium tetraisopropoxyde (1.78 g). The suspension is stirred for 24 h at room temperature, diluted with ethyl acetate and 1N sodium hydroxyde. The precipitate is filtered over a clarcel pad and rinsed with ethyl acetate. The pooled filtrates are washed with saturated sodium chloride solution, dried and concentrated under reduced pressure. The residue is purified over silica gel (gradiant dichloromethane/methanol from 100/0 to 90/10) to afford [(benzofuran-2-yl)(benzothiazol-2-yl)methylene](1-methylpiperidin-4-yl)amine.

reactant | (benzofuran-2-yl)(benzothiazol-2-yl)methanone | 1.4 g | O1C(=CC2=C1C=CC=C2)C(=O)C=2SC1=C(N2)C=CC=C1 | C16H9NO2S
reactant | 4-amino-1-methylpiperidine | 0.57 g | NC1CCN(CC1)C | C6H14N2
solvent | tetrahydrofurane | 8 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium | 1N | [Na] | Na
catalyst | titanium | [Ti] | Ti
product | [(benzofuran-2-yl)(benzothiazol-2-yl)methylene](1-methylpiperidin-4-yl)amine | O1C(=CC2=C1C=CC=C2)C(C=2SC1=C(N2)C=CC=C1)=NC1CCN(CC1)C | C22H21N3OS
